US05013749
1,1-Dimethyleth-1-yl(5S,E)-7-[4,5-bis-(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-5-hydroxy-3-oxo-6-heptenoate
A solution of dry diisopropylamine (0.77 ml) in dry cyclohexane (15.6 ml) at 3° under nitrogen was treated dropwise with n-butyl lithium solution (1.55M in hexanes, 3.54 ml). After 15 min t-butyl acetate (0.74 ml) was added dropwise. After 30 min the mixture was cannulated into a solution of methyl(3S,E)-5-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3-hydroxy-4-pentenoate (334 mg) in dry THF (7.8 ml) at 3° under nitrogen over 15 min. After 1 h the mixture was quenched with saturated aqueous ammonium chloride solution (3.5 ml) and then diluted with water. The mixture was then and extracted with ethyl acetate (3×20 ml). The combined extracts were dried and evaporated to a gummy solid (518 mg) which was treated with ether (4 ml) and then cyclohexane (4 ml) and cooled in an ice bath. The solid was collected, washed and dried to give the title compound (239 mg) as a white powder; δ(CDCl3) 1.41 (d, J 7.5 Hz, 6H, CH(CH3)2), 1.46 (s, 9H, C(CH3)3), 2.59 (d, J 7.5 Hz, 2H, C(OH)CH2CO), 3.02 (bs, 1H, OH), 3.14 (septet, J 7.5 Hz, 1H, --CH(CH3)2), 3.35 (s, 2H, CH2CO2R), 4.63 (m, 1H, CHOH), 5.39 (dd, J 14 and 7 Hz, 1H, N--CH=CH--C), 6.70 (d, J 14 Hz, 1H, N--CH=CH--C), 6.90 and 7.10 (2 t, J 9 Hz, each 2H, C-3 and C-5 protons of 4-fluorophenyls), 7.17-7.47 (m, 4H, C-2 and C-6 protons of 4-fluorophenyls). Also present was a trace of the enol form, δ values include 1.52 (s, --C(CH3)3), 4.51 (m, CHOH), 4.89 (s, C(OH)=CHCO2), 5.38 (dd, J 14 and 7 Hz, --N--CH=CH), 6.64 (d, J 14 Hz, NCH=CH). Chiral hplc detected none of the other enantiomer. A second crop of title compound (56 mg) was also obtained.

reactant | diisopropylamine | 0.77 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.55M, 3.54 ml | C(CCC)[Li]
reactant | t-butyl acetate | 0.74 ml | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | methyl(3S,E)-5-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3-hydroxy-4-pentenoate | 334 mg | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/[C@H](CC(=O)OC)O)C(C)C | C24H24F2N2O3
solvent | cyclohexane | 15.6 ml | C1CCCCC1 | C6H12
solvent | THF | 7.8 ml | C1CCOC1 | C4H8O
product | 1,1-Dimethyleth-1-yl(5S,E)-7-[4,5-bis-(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-5-hydroxy-3-oxo-6-heptenoate | 239 mg | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/[C@H](CC(CC(=O)OC(C)(C)C)=O)O)C(C)C | C29H32F2N2O4
